US09212190B2
To a solution of tert-butyl N-[4-(morpholin-4-yl)cyclohexyl]carbamate (1.0 g, 3.52 mmol, 1.00 equiv) in methanol (5 mL) was added concentrated hydrochloric acid (1.5 mL) at 0° C. The resulting solution was stirred overnight at room temperature. To this mixture was slowly added ether (50 mL). The precipitates were collected by filtration and dried in an oven to give 4-(morpholin-4-yl)cyclohexan-1-amine dihydrochloride (500 mg, 55%) as a white solid.

reactant | tert-butyl N-[4-(morpholin-4-yl)cyclohexyl]carbamate | 3.52 mmol, 1.0 g, 1.00 equiv | N1(CCOCC1)C1CCC(CC1)NC(OC(C)(C)C)=O | C15H28N2O3
reactant | hydrochloric acid | 1.5 mL | Cl | ClH
reactant | ether | 50 mL | CCOCC | C4H10O
solvent | methanol | 5 mL | CO | CH4O
product | 4-(morpholin-4-yl)cyclohexan-1-amine dihydrochloride | 500 mg, 55% | Cl.Cl.N1(CCOCC1)C1CCC(CC1)N | InChI=1S/C10H20N2O.2ClH/c11-9-1-3-10(4-2-9)12-5-7-13-8-6-12;;/h9-10H,1-8,11H2;2*1H
